US04481211
Preparation of 1-decyl-3-benzyl-4-methyl-5-chloroimidazolium chloride
25.5 g (0.1 mole) of 1-decyl-4-methyl-5-chloroimidazole were heated to 100° C., 12.6 g (0.1 mole) of benzyl chloride were added dropwise in the course of 10 minutes, and the mixture was then stirred for a further 30 minutes at 125° C.

reactant | 1-decyl-4-methyl-5-chloroimidazole | 0.1 mole, 25.5 g | C(CCCCCCCCC)N1C=NC(=C1Cl)C | C14H25ClN2
reactant | benzyl chloride | 0.1 mole, 12.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 1-decyl-3-benzyl-4-methyl-5-chloroimidazolium chloride | [Cl-].C(CCCCCCCCC)[N+]1=CN(C(=C1Cl)C)CC1=CC=CC=C1 | InChI=1S/C21H32ClN2.ClH/c1-3-4-5-6-7-8-9-13-16-23-18-24(19(2)21(23)22)17-20-14-11-10-12-15-20;/h10-12,14-15,18H,3-9,13,16-17H2,1-2H3;1H/q+1;/p-1
